US06262045B1
1.6. 5-Ethyl-8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile
A two-phase mixture of 7.2 g (18 mmol) of 1-(bromomethyl)-5-ethyl-8-fluoro-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one, of 3.53 g (72 mmol) of sodium cyanide and of 0.58 g (1.8 mmol) of tetrabutylammonium bromide in 300 ml of dichloromethane and 150 ml of water is stirred vigorously for 12 h. The organic phase is separated, washed several times with water, dried over magnesium sulphate and concentrated under reduced pressure. 5.8 g (16.8 mmol) of compound are isolated, which compound is used as is in the following stage.

reactant | 1-(bromomethyl)-5-ethyl-8-fluoro-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 18 mmol, 7.2 g | BrCC1=NN(C(C=2N(C=3C=CC(=CC3C21)F)CC)=O)C2=CC=CC=C2 | C19H15BrFN3O
reactant | sodium cyanide | 72 mmol, 3.53 g | [C-]#N.[Na+]
catalyst | tetrabutylammonium bromide | 1.8 mmol, 0.58 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | 150 ml | O | H2O
product | 5-Ethyl-8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile | 16.8 mmol, 5.8 g | C(C)N1C2=C(C=3C=C(C=CC13)F)C(=NN(C2=O)C2=CC=CC=C2)CC#N | C20H15FN4O
